US09284331B2
5-(1H-pyrazol-1-yl)isoquinoline
A suspension of 5-hydrazinylisoquinoline (22.0 g, 112 mmol) in EtOH (300 mL) was treated with 1,1,3,3-tetramethoxypropane (27.7 g, 169 mmol) and the mixture was heated to 100° C. for 10 h. The reaction mixture was then concentrated in vacuo and the residue obtained taken up in DCM (500 mL) and washed with a saturated aqueous solution of NaHCO3—gas formation. The aqueous layer was extracted twice with DCM and the combined org. layers were then dried over Na2SO4, filtered and concentrated in vacuo. The crude product was purified by flash chromatography (SiO2, DCM/MeOH 95:5 to DCM/MeOH 9:1) to give the title compound (16.1 g). UPLC-MS: MS 196.1 (M+H+); UPLC rt 0.62 min.

reactant | 5-hydrazinylisoquinoline | 112 mmol, 22.0 g | N(N)C1=C2C=CN=CC2=CC=C1 | C9H9N3
reactant | 1,1,3,3-tetramethoxypropane | 169 mmol, 27.7 g | COC(CC(OC)OC)OC | C7H16O4
solvent | EtOH | 300 mL | CCO | C2H6O
solvent | DCM | 500 mL | C(Cl)Cl | CH2Cl2
product | 5-(1H-pyrazol-1-yl)isoquinoline | 16.1 g | N1(N=CC=C1)C1=C2C=CN=CC2=CC=C1 | C12H9N3
